US07425560B2
b) 6-Amino-1-(2-tetrahydrofuryl-methyl)-5-nitroso-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one
6-Amino-1-(2-tetrahydrofuryl-methyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one (1.3 g, 5.6 mmol) was suspended in 10% aqueous acetic acid (25 mL). Sodium nitrite (0.43 g, 6.2 mmol) was added and this mixture was heated at 75° C. for 1 h. The purple solid was collected by filtration, washed and dried, giving the title product (1.3 g, 90%).

reactant | 6-Amino-1-(2-tetrahydrofuryl-methyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 5.6 mmol, 1.3 g | NC1=CC(NC(N1CC1OCCC1)=S)=O | C9H13N3O2S
reactant | Sodium nitrite | 6.2 mmol, 0.43 g | N(=O)[O-].[Na+]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 6-Amino-1-(2-tetrahydrofuryl-methyl)-5-nitroso-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 1.3 g, 90% | NC1=C(C(NC(N1CC1OCCC1)=S)=O)N=O | C9H12N4O3S
